US05514719
205 g (1 mol) of 4-(trifluoromethyl)anthranilic acid, 600 ml of glacial acetic acid and 400 ml of 47% hydrobromic acid are introduced successively into a three-liter round-bottomed flask. After dissolution, the reaction mixture is cooled to -10° C., diluted with 400 ml of water and then treated dropwise with a solution of 69 g (1 mol) of sodium nitrite in 200 ml of water while maintaining the temperature below 0° C. When the addition is finished, the reaction mixture is stirred at 0° C. for 2 hours. This solution is run in dropwise into a six-liter reactor containing 143.5 g (1 mol) of cuprous bromide in 500 ml of 47% hydrobromic acid maintained at 60° C. When the addition is finished, the reaction mixture is stirred at 60° C. for one hour, cooled to room temperature and then poured into two liters of ice-cold water. The precipitate which forms is filtered on sintered glass, washed with water and then dried under a stream of air. There is thus obtained 216 g (yield: 80%) of 2-bromo-4-(trifluoromethyl)benzoic acid in the form of a solid melting at 118.5° C.

reactant | 4-(trifluoromethyl)anthranilic acid | 1 mol, 205 g | FC(C=1C=C(C(C(=O)O)=CC1)N)(F)F | C8H6F3NO2
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1 mol, 69 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 500 ml | Br | BrH
reactant | hydrobromic acid | 400 ml | Br | BrH
solvent | water | 400 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-bromo-4-(trifluoromethyl)benzoic acid | 216 g, yield: 80% | BrC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4BrF3O2
